US07566712B2
Combine 2,4-dichloro-6-(3-chloro-4-fluoro-phenyl)-pyrimidine (1.6 g, 5.75 mmol), sodium bicarbonate (1.28 g, 15 mmol), MeOH (100 mL) and cool over ice. Drip in a mixture of 1-(3-trifluoromethyl-pyridin-2-yl)-piperazine (1.33 g, 5.75 mmol) in MeOH (50 mL), and let the reaction stir for 16 hours at room temperature. Evaporate the mixture and purify directly using 10:1 hexanes/EtOAc, obtaining 2-chloro-4-(3-chloro-4-fluoro-phenyl)-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidine as a white solid.

reactant | 2,4-dichloro-6-(3-chloro-4-fluoro-phenyl)-pyrimidine | 5.75 mmol, 1.6 g | ClC1=NC(=CC(=N1)Cl)C1=CC(=C(C=C1)F)Cl | C10H4Cl3FN2
reactant | sodium bicarbonate | 15 mmol, 1.28 g | C([O-])(O)=O.[Na+]
reactant | 1-(3-trifluoromethyl-pyridin-2-yl)-piperazine | 5.75 mmol, 1.33 g | FC(C=1C(=NC=CC1)N1CCNCC1)(F)F | C10H12F3N3
solvent | MeOH | 50 mL | CO | CH4O
solvent | MeOH | 100 mL | CO | CH4O
product | 2-chloro-4-(3-chloro-4-fluoro-phenyl)-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidine | ClC1=NC(=CC(=N1)C1=CC(=C(C=C1)F)Cl)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F | C20H15Cl2F4N5
